US04028344
A. 2-t-Butylazo-2-thiocyanatopropane
To a stirred solution of 9.72 grams (0.12 moles) of sodium thiocyanate in 50 ml methanol in a 125 ml erlenmeyer flask was slowly added 16.25 grams (0.1 mole) of 2-t-butylazo-2-chloropropane while holding the reaction temperature at 5° C. with an ice bath. After the addition was complete, the reaction was stirred an additional 15 minutes and poured into 300 ml water. The solids which formed were filtered off and pulled semi-dry on the filter funnel. The crystals were dissolved in pentane, dried over anhydrous sodium sulfate, filtered and the pentane evaporated under reduced pressure. The pale yellow solid residue weighed 8.0 grams (43% crude yield) and melted at 29°-31° C. The infrared spectrum of the product contained a sharp weak band at 2160 cm-1. There also was a weak doublet at 2020 and 2070 cm-1 indicating there was a trace of the isothiocyanato isomer present.

reactant | sodium thiocyanate | 0.12 moles, 9.72 grams | [S-]C#N.[Na+]
reactant | 2-t-butylazo-2-chloropropane | 0.1 mole, 16.25 grams | C(C)(C)(C)N=NC(C)(C)Cl | C7H15ClN2
reactant | water | 300 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 2-t-Butylazo-2-thiocyanatopropane | C(C)(C)(C)N=NC(C)(C)SC#N | C8H15N3S
